### PR TITLE
chore: bump mathlib to 85e3a25 (v4.34.0-rc2), fix breaking changes

### PR DESCRIPTION
**Pull request by kbuzzard**
Bumps mathlib from 274ed6d to 85e3a25 -- the v4.34.0-rc2 tag, 138 commits on, and the toolchain from v4.34.0-rc1 to v4.34.0-rc2 to match.

* mathlib#41718 (`feat: add Bernoulli.dvd_den_bernoulli and related lemmas`) changed the
  `simp`-normal form for inverses of `WithZero.exp`: `WithZero.exp_neg` is no longer a `simp`
  lemma, and the new `@[simp] WithZero.inv_exp` rewrites `(exp a)⁻¹` to `exp (-a)` instead. This
  left `Rat.HeightOneSpectrum.adicCompletion.padicEquiv_norm_coe_eq` with an `exp (-padicValRat …)`
  that its closing `rfl` cannot see through, so we restore the old orientation in that one `simp`
  call.

### CODE REVIEW

**Comment by kbuzzard** [comment]
<sub>Opened automatically by the nightly bump job on Kevin's machine (`~/.local/bin/flt-nightly-bump.sh`). Full log: `/home/buzzard/.local/state/flt-nightly-bump/run-20260825-172628.log`.</sub>

File: FLT/Mathlib/NumberTheory/Padics/HeightOneSpectrum.lean [hunk 1]
```diff
@@ -115,8 +115,10 @@ lemma adicCompletion.padicEquiv_norm_coe_eq
   rw [NumberField.FinitePlace.norm_embedding']
   rcases eq_or_ne x 0 with rfl | hx
   · simp [withValEquiv, Valuation.IsEquiv.uniformEquiv]
-  · simp [padicValuation, withValEquiv, Valuation.IsEquiv.uniformEquiv,
-      valuation_apply_eq_padicValuation, hx, primesEquiv, natGenerator_eq_absNorm v]
+  · -- mathlib#41718 made `exp (-a)` the `simp`-normal form; the `rfl` below needs `(exp a)⁻¹`.
+    simp [padicValuation, withValEquiv, Valuation.IsEquiv.uniformEquiv,
```
Comment (kbuzzard) [inline FLT/Mathlib/NumberTheory/Padics/HeightOneSpectrum.lean]:
```suggestion
  · simp [padicValuation, withValEquiv, Valuation.IsEquiv.uniformEquiv,
```
